US05387685
4,5-Dichloro-1,2-benzenedimethanol
A 1.24 g portion of 4,5-dichlorophthalic acid is dissolved in 40 mL anhydrous tetahydrofuran and the solution is cooled to 0° C. To this solution is slowly added 4 mL of borane-methyl sulfide. The reaction flask is first warmed to room temperature, then heated to reflux for 12 hours. The product mixture is cooled to 0° C., then slowly quenched with 50 mL methyl alcohol. Following removal of the solvent, the residue is partitioned between 40 mL water, and 100 mL 1:1 ethyl acetate tetrahydrofuran. The organic layer is washed with 30 mL brine, then dried over magnesium sulfate. Purification by silica gel chromatography (2:1 ethyl acetate/hexane) affords 1.01 g of the desired product as a white solid, m.p. 128°-136° C.

reactant | 4,5-dichlorophthalic acid | ClC=1C=C(C(C(=O)O)=CC1Cl)C(=O)O | C8H4Cl2O4
reactant | borane methyl sulfide | 4 mL | B.CSC
product | 4,5-Dichloro-1,2-benzenedimethanol | 1.01 g | ClC=1C=C(C(=CC1Cl)CO)CO | C8H8Cl2O2
